Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
foul smelling urine, homelessness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ yo F with history of psychosis and delusional disorder, 
transverse myelitis c/b paraplegia, Stage III sacral decub 
(followed by plastics), and chronic osteomyelitis of the L ankle 
admitted after losing home and needing escalating ___ care of L 
ankle osteomyelitis. Was evicted from her house on ___ by 
___, and officially left today per 
deadline. Patient has also recently accepted by ___, but 
reportedly has been refusing resources associated with ___ such 
as psychiatry, social work, and case worker. Also reports she 
has been arguing with her sister (who is her guardian) and 
states she wants the primary medical team to talk to her Aunt 
___ who is a doctor. From a medical standpoint, notes 
concentrated urine that has smelled 'funny' x1 week, and some 
transient sharp, lower abdominal pain associated with taking her 
medications 2 days ago. +chills, but denies fevers. Has been 
eating and drinking well/taking good POs. Denies chest pain, 
shortness of breath, lower extremity edema, new rashes. States 
mood is 'good', denies HI/SI or any recent hallucinations, but 
states that 'my sister has been sending people into my apartment 
to find out what my PCA is doing and why I was hospitalized.' 
Also states she is no longer taking doxycycline (stopped after 2 
weeks of treatment by ID).  
.  
In ED, VS were 99.3 140/88 120 16 100% on RA. Serum/urine tox 
sent, positive for cocaine use. U/A sent, dirty catch, but got 
cipro 500 mg PO x1/?augmentin for UTI, and foley was changed 
out. Seen by social work while in ED, determined that does not 
require ___ facility at this time, but medical issues are too 
complicated for a shelter, recommended admission to medicine 
service for placement.  

 
Past Medical History:
- Psychotic disorder, has guardian; unable to make own medical  
decisions  
- Sacral osteomyelitis: Admitted in ___ treated with 6wks  
of meropenem and vancomycin  
- Admitted ___ for ankle osteomyelitis, received 6 weeks 
of meropenem and vancomycin  
- Admitted in ___, treated with 7 days of cefpodoxime for UTI  
- on suppressive therapy for osteo with doxycycline 100 mg PO 
BID indefinitely.  
- Admitted to ___ in ___  
- Removal (___) of ___ fusion of L ankle  
- Paraplegia due to transverse myelitis  
- Multiple complications from pressure wounds  
- Depression with suicidal ideation, treated at ___ 
 
- Borderline hypertension  

 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
VS: 97.6 104/60 112 18 98% on RA  
GA: AA F lying in bed, AOx3, NAD  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.  
Cards: PMI palpable at ___ IC space. No RVH. RRR S1/S2 heard. 
no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: soft, NT, +BS. no g/rt. neg HSM. neg ___ sign. no 
suprapubic tenderness.  
Extremities: thin, muscle wasting ___. bandaged over bilateral 
heels c/d/i.  
Skin: stage III sacral decub, healing/fibrosing well, no 
purulent drainage.  
Neuro/Psych: pleasant, compliant. moving upper extremities. 
paraplegic below lower extremities.  

 
Pertinent Results:
admission  labs
___ 06:15PM BLOOD ___ 
___ Plt ___
___ 06:15PM BLOOD ___ 
___
___ 07:45AM BLOOD ___
___ 06:15PM BLOOD ___ 
___

urine tox + for cocaine

micro data: urine culture: proteus mirabilus

 
Brief Hospital Course:
A/P: ___ yo F with psychosis/delusional disorder, transverse 
myelitis c/b paraplegia, admitted with fever, leukocytosis, 
bladder spasms, and concentrated urine c/f UTI. Also recently 
evicted from home.  
  
#Homelessness: Evicted from home. Has been set up with DHM, 
states she has contacted them for care but has not heard back. 
Recent discharge from ___ without coordinate care 
plan (per notes from ID and psychiatry dated in ___. 
Coordinated with case management to discharge patient to rehab. 
  
#Low grade fever/leukocytosis: Given symptoms of concentrated, 
foul smelling urine, low grade temperature in ED, and transient 
abdominal pain (likely bladder spasms) 2 days ago, assess for 
UTI. Has received cefpodoxime in the past. Reports good PO 
intake but appears hemoconcentrated on CBC (baseline hct 30, 
currently 34). Rehydrated with IVFs. Osteomyelitis and sacral 
decub evaluated by plastics, do not appear infected. Changed 
foley, repeat urine culture showed Proteus mirabilus, treated 
with 14 days of ampicillin for catheter related UTI. 

# Sacral decubitus ulcer: stable per 1' team and plastics. 
continued wound care.  
 
# Chronic osteomyelitis: States she only got 2 weeks of 
suppressive doxycycline, as directed by outpatient ID outside of 
___. Contacted ___ ___ ID fellow who has followed 
patient extensively on past admissions) who recommended 
restarting doxycycline for continued suppressive treatment of 
chronic osteo. Continued wound care.  

#Psychosis/Delusional disorder: continued risperidone and 
zyprexa  
  
#Positive tox screen for cocaine: Pt denied to medical team 
taking cocaine. Emphasized to patient health risks of cocaine 
including hypertension and MI and possible death.  Addictions 
consultation.
 
Medications on Admission:
-Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
-Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
-Acyclovir 5 % Ointment Sig: One (1) Appl Topical ASDIR (AS 
DIRECTED).  
-Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
-Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
-Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
-Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed.  
-Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a day) 
as needed.  
-Oxybutynin Chloride 5 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
-Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
-Risperidone Microspheres 37.5 mg/2 mL Syringe Sig: One (1) 
Syringe Intramuscular Q2W (WE): Next dose to be given ___.  
-Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous DAILY (Daily).  
-Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
-Olanzapine 2.5 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
-Olanzapine 2.5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

-___ mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for heartburn, 
nausea.  

 
Discharge Medications:
1. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for anxiety, insomnia.  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
7. Oxybutynin Chloride 5 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).  
8. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain,fever.  
9. Lovenox 40 mg/0.4 mL Syringe Sig: One (1)  Subcutaneous once 
a day.  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Olanzapine 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Olanzapine 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
13. ___ mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for heart burn.  
14. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
15. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
16. Risperidone Microspheres 37.5 mg/2 mL Syringe Sig: One (1) 
ML Intramuscular q2weeks (): on ___.  
17. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed for congestion.  
18. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed for heartburn. 
 
19. Ampicillin 250 mg Capsule Sig: Two (2) Capsule PO Q6H (every 
6 hours) for 9 days: day 1: ___
day 14: ___.
Disp:*36 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
1' Diagnosis 
Catheter Related Urinary Tract Infection 
 
2' Diagnosis 
Psychosis/Delusional Disorder 
Transvere Myelitis 
Paraplegia 
Chronic Osteomyelitis 
Stage III Sacral Decubitus Ulcer 

 
Discharge Condition:
good

 
Discharge Instructions:
You were admitted with concern for urinary tract infection and 
homelessness. You were treated with antibiotics for your urinary 
tract infection. You have been set up with DHM and were 
discharged to a rehabilitation facility.

Please take your medications as directed. 
Please take the ampicillin for 14 days total, as directed on 
your discharge paperwork. 

You were restarted on your antibiotic suppression for chronic 
osteomyelits, doxycycline. You should continue to take this as 
directed. 

We strongly recommend you do not use illegal drugs such as 
cocaine (as your urine tox screen was positive for this drug on 
admission) as it could cause heart attack, stroke, and death. 

Return to the ED or call your PCP if you have fevers > 101, 
chills, worsening abdominal pain, worsening of your psychiatric 
symptoms, thoughts of wanting to hurt yourself or other people, 
or any other symptoms not listed here concerning enough to 
warrant physician ___. 
 
Followup Instructions:
___